US05834506
3-(4-Amino-phenyl)-1-phenyl-propan-1-one
A mixture of 3-(4-nitro-phenyl)-1-phenyl-prop-2-en-1-one (24.9 g, 98.3 mmol), Raney nickel (7.0 g), MeOH (100 mL), and THF (400 mL) was shaken in a hydrogen atmosphere of 51 psi at 20° C. for 18.5 hours. The catalyst was filtered, and the filtrate was concentrated. The residue was recrystallized from 95% EtOH, to give the title compound, m.p. 76°-78° C. 1H NMR (CDCl3) δ 2.98 (t, 2 H), 3.25 (t, 2 H), 3.62 (bs, 2 H), 6.65 (d, 2 H), 7.05 (d, 2 H), 7.40-7.61 (m, 3 H), 7.96 (d, 2 H).

reactant | 3-(4-nitro-phenyl)-1-phenyl-prop-2-en-1-one | 98.3 mmol, 24.9 g | [N+](=O)([O-])C1=CC=C(C=C1)C=CC(=O)C1=CC=CC=C1 | C15H11NO3
reactant | MeOH | 100 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 7.0 g | [Ni] | Ni
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 3-(4-Amino-phenyl)-1-phenyl-propan-1-one | NC1=CC=C(C=C1)CCC(=O)C1=CC=CC=C1 | C15H15NO
